US07553836B2
Step A. Preparation of 4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine
A stirred DMF suspension (5 mL) of 4-nitrophenol (0.5 g, 3.6 mmol), 1-(2-chloroethyl)pyrrolidine hydrochloride (0.92 (5.4 mmol) and K2CO3 (1.24 g, 9 mmol) was heated at 80 for 3 hr. After cooling to RT, the reaction was diluted with H2O and extracted 3× with EtOAc. The combined EtOAc layers were washed 2× with H2O and dried over MgSO4. After concentration under vacuum, the resulting residue was chromatographed on silica gel. Gradient elution CH2Cl2 to 10% MeOH/CH2Cl2 eluted the 1-(2-(4-nitrophenoxy)ethyl)pyrrolidine (560 mg) as an orange oil. Further purification employing reverse phase chromatography (MeOH/H2O/0.1% TFA) yielded 413 mg of a yellow oil. Subsequent conversion of the aryl nitro substituent to the title aryl amine was accomplished following the procedure described in Example 6 step C. MS (ESI) 207 (M+H)+.

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 4-nitrophenol | 3.6 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
reactant | K2CO3 | 9 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | O | H2O
product | 4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine | 413 mg | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
